US07932271B2
3-Allyloxy-2-[[(4-chlorophenyl)thio]-(2,5-difluorophenyl)methyl]pyridine
The 3-allyloxy-2-[(2,5-difluorophenyl)-hydroxymethyl]pyridine (370 mg, 1.33 mmol) obtained in Referential Example 10 was dissolved in thionyl chloride (2.0 ml). To the resulting solution was added a catalytic amount of dimethylformamide. The resulting mixture was stirred for 16 hours. The reaction mixture was concentrated under reduced pressure. Dioxane was added to the residue, followed by further concentration. The residue thus obtained was dissolved in dimethylformamide (10 ml). To the resulting solution were added 4-chlorobenzenethiol (217 mg, 1.5 mmol) and potassium carbonate (828 mg, 6.0 mmol) under a nitrogen atmosphere. The resulting mixture was stirred at 50° C. for 1 hour. After the reaction mixture was cooled to room temperature, diethyl ether (50 ml) was added thereto. The resulting mixture was washed with water and brine. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (hexane:ethyl acetate=10:1) to give the title compound (256 mg, 68%) as an oil.

reactant | 3-allyloxy-2-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | 1.33 mmol, 370 mg | C(C=C)OC=1C(=NC=CC1)C(O)C1=C(C=CC(=C1)F)F | C15H13F2NO2
reactant | 4-chlorobenzenethiol | 1.5 mmol, 217 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 6.0 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Allyloxy-2-[[(4-chlorophenyl)thio]-(2,5-difluorophenyl)methyl]pyridine | 256 mg, 68% | C(C=C)OC=1C(=NC=CC1)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl | C21H16ClF2NOS
